2131-04-07 09:29:00 Physician Attending Progress Note
Chief Complaint: fever, rigors
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70-year old woman with a history of  rheumatoid arthritis on MTX,
   admitted on [**2131-2-19**] with sepsis secondary nec fasciitis of her left BKA
   stump, s/p OR debridement [**2131-2-20**], cultures demonstrating Group A Strep
   and MSSA. Treated w/ ABX as summarized in admission note, and eventual
   AKA on [**2131-3-13**]. Restarted on MTX [**3-16**] and developed what was thought to
   be MTX-induced pancytopenia around [**Date range (1) 7709**] (stopped MTX).  Developed
   neutropenic fevers on [**3-31**]- tx'd with vancomycin + cefepime. Per Heme
   consult, was given leucovorin for MTX toxicity, and overall
   defervesced. On [**4-6**] spiked fever to 102 with rigors and also noted
   vague abd discomfort. Never hypotensive or respiratorily unstable.
   24 Hour Events:
   R subclavian line since [**3-26**]. Pan-CT done last night.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2131-4-6**] 08:30 PM
   Meropenem - [**2131-4-7**] 04:00 AM
   Metronidazole - [**2131-4-7**] 08:24 AM
   Daptomycin - [**2131-4-7**] 08:25 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2131-4-6**] 06:26 PM
   Pantoprazole (Protonix) - [**2131-4-6**] 08:00 PM
   Morphine Sulfate - [**2131-4-7**] 04:15 AM
   Metoprolol - [**2131-4-7**] 06:05 AM
   Haloperidol (Haldol) - [**2131-4-7**] 06:40 AM
   Other medications:
   Fluconazole, meropenem, daptomycin, metronidazole, leucovorin,
   Solu-Medrol 4 q24, Protonix q24, Peridex, metop 5 q6
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-7**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 97 (85 - 120) bpm
   BP: 164/92(112) {119/53(74) - 172/97(112)} mmHg
   RR: 21 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,488 mL
                                                                  1,588 mL
   PO:
             TF:
   IVF:
                                                                  1,213 mL
                                                                  1,183 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                  2,255 mL
   Urine:
                                                                  1,090 mL
                                                                  2,255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    398 mL
                                                                   -667 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: most prominently in LLQ
   Extremities: Right: Absent, Left: Absent, L AKA stump insicion intact
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Rash: upper chest reticular rash
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): not oriented, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   252 K/uL
   86 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   24 mg/dL
   112 mEq/L
   144 mEq/L
   24.4 %
   3.1 K/uL
        [image002.jpg]
                             [**2131-4-6**]  06:21 PM
                             [**2131-4-7**]  03:00 AM
   WBC
   3.8
   3.1
   Hct
   27.7
   24.4
   Plt
   232
   252
   Cr
   0.7
   Glucose
   86
   Other labs: PT / PTT / INR:20.9/38.7/2.0, ALT / AST:20/23, Alk Phos / T
   Bili:126/0.4, Differential-Neuts:2.0 %, Band:0.0 %, Lymph:63.0 %,
   Mono:15.0 %, Eos:10.0 %, Fibrinogen:394 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.4 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.3
   mg/dL
   Fluid analysis / Other labs: fibrinogen- 394
   Imaging: CT c/a/p ([**4-6**])- R > L effusions w/ asosc atelectasis, o/w no
   parenchymal change, no obvious change seen in CT head or a/p (our read,
   official pending)
   Echo ([**3-29**])- EF > 55%, 1+ AR,
   Microbiology: Multiple blood cx- neg to date
   Urine- [**3-27**], [**3-31**] Eneterococcus
   C diff- neg
   EBV/ CMV- neg
   Assessment and Plan
   NEUTROPENIC FEVER- DDx includes poss GI process given abd pain, such as
   diverticulitis or typhlitis. Also with chronic indwelling line. Pan CT
   scan w/ R > L effusions which seems to be freely layering and
   homogenous
   -fluconazole, daptomycin, meropenem, metronidazole --> will d/w ID
   possibly changing antifungal coverage to micafungin
   -f/u final CT read today
   -will d/w ID regarding changing central line, esp given mental status
   changes. might be helpful to attempt PICC (IV vs IR)
   -discuss G-CSF again w/ heme svce; on leucovorin rescue
   PLEURAL EFFUSION- appears to be homogenous and freely layering. No
   underlying pernchymal disease. could be related to RA. No underlying
   cardiac disease to implicate cardiogenic effusion.
   -would probably favor tapping at some point given fevers; however given
   coagulopathy and mental status change may have to defer for now
   DELIRIUM- related poss infectious process
   -low dose prn Haldol for acute agitation
   COAGULOPATHY- INR rising for unclear reasons, LFTs appear nl and
   fibrinogen nl
   -vitamin K repletion and monitor for underlying issues
   RA- holding MTX, cont methylprednisolone
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-4-6**] 06:30 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-4-6**] 05:58 PM
   22 Gauge - [**2131-4-6**] 08:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Addednum
   CT reviewed. Incidentally note a L subsegmental PE.  Pt with stable O2
   sats on RA and no tachycarida or hypotension.  She has a h/o Gib though
   this was mild, gastritis related during prior ICU stay/colectomy.  We
   will anticoagulate without bolus and obtain LENIs.  She seems rather
   high risk for longterm consideration for anticoagulation and is asx.

2131-04-09 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo woman with RA, recent L AKA for L BKA stump necrotizing
   fasciitis, admitted with neutropenic fever and mental status
   changes/agitation.
   24 Hour Events:
   febrile to 101.8 yest pm.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2131-4-8**] 08:00 PM
   Meropenem - [**2131-4-9**] 04:07 AM
   Daptomycin - [**2131-4-9**] 06:05 AM
   Metronidazole - [**2131-4-9**] 07:30 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-4-8**] 08:00 PM
   Metoprolol - [**2131-4-9**] 06:05 AM
   Morphine Sulfate - [**2131-4-9**] 09:54 AM
   Haloperidol (Haldol) - [**2131-4-9**] 09:54 AM
   Other medications:
   Solu-Medrol 4 qd, Protonix, Peridex, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-9**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.9
C (98.5
   HR: 100 (89 - 114) bpm
   BP: 157/77(93) {119/41(59) - 176/106(110)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,307 mL
                                                                  1,847 mL
   PO:
             800 mL
   TF:
   IVF:
                                                                  1,320 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    840 mL
   Urine:
                                                                  1,880 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,427 mL
                                                                  1,007 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.4 g/dL
   664 K/uL
   144 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.6 mEq/L
   28 mg/dL
   112 mEq/L
   150 mEq/L
   25.3 %
   28.1 K/uL
        [image002.jpg]
                             [**2131-4-6**]  06:21 PM
                             [**2131-4-7**]  03:00 AM
                             [**2131-4-8**]  02:00 AM
                             [**2131-4-9**]  03:51 AM
   WBC
   3.8
   3.1
   4.1
   28.1
   Hct
   27.7
   24.4
   24.6
   25.3
   Plt
   232
   252
   407
   664
   Cr
   0.7
   0.7
   0.8
   1.0
   Glucose
   86
   122
   108
   144
   Other labs: PT / PTT / INR:18.8/62.5/1.7, ALT / AST:17/22, Alk Phos / T
   Bili:106/0.2, Amylase / Lipase:21/9, Differential-Neuts:40.0 %,
   Band:6.0 %, Lymph:35.0 %, Mono:13.0 %, Eos:3.0 %, Fibrinogen:547 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:280 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: CEA- 4.9
   CA125- 69
   Microbiology: no new cx data
   Assessment and Plan
   VENOUS THROMBOEMBOLISM
   -large clot burden in LE, remote hx of stress gastritis-related bleed
   -on heparin gtt with no bolus and monitoring PTT serially; will need to
   consider long-term anticoag options carefully
   -concern for occult malig as discussed below
   -if any bleeding and/or unable to anticoagulate, likely will require
   IVC filter give large LE clot burden
   FUO- possibly related to clot burden, but infectious sources include
   line infxn, pan CT scan w/ R > L effusions which seems to be freely
   layering and homogenous
   -no longer neutropenic today, cont to monitor for fever and infxn
   -fluconazole, daptomycin, meropenem, metronidazole --> will stop
   fluconazole and Flagyl today given no clear source
   -attempted to change central line to PICC yesterday but unable to place
   PICC due to inability to pass catheter.  Concern for clot burden above.
   Access adequate for now, eval for clot/placement via IR tomorrow
   -cancer screens w/ CA125 and CEA negative
   PLEURAL EFFUSION- appears to be homogenous and freely layering. No
   underlying pernchymal disease. could be related to RA.
   - No underlying cardiac disease to implicate cardiogenic effusion.
   - would probably favor tapping at some point given fevers-- however
   given coagulopathy and mental status change would defer for now
   HYPERNATREMIA- will need to touch base w/ TPN nurse to adjust infusion
   NEUTROPENIA- resolved, was related to MTX most likely
   -leucovorin and G-CSF dc'd
   -f/u parvovirus serologies
   ALTERED MENTAL STATUS- resolving, alert and interactive but only
   oriented to name
   - presumably related to some infxn or fevers
   -agitation controlled w/ prn Haldol
   COAGULOPATHY
   - INR was rising for unclear reasons prior to anticoag, LFTs appear nl
   and fibrinogen nl
   -considering malnutrition but will ask Hematology to assist
   RA- holding MTX, cont methylprednisolone
   Remainder of plan as per resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-4-8**] 04:04 PM 50 mL/hour
   Comments: also taking po nutritional shakes
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2131-4-6**] 05:58 PM
would recommend line change by ir as
   unable to place bedside picc and difficult for central line placement
   for tpn.
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: will consider floor transfer tomorrow if
   continued stability
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2131-04-10 08:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Afebrile
   - Stopped flagyl and fluconazole
   - Hypernatremia and changed TPN with improvement.
   History obtained from MD
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2131-4-8**] 08:00 PM
   Daptomycin - [**2131-4-9**] 06:05 AM
   Metronidazole - [**2131-4-9**] 07:30 AM
   Meropenem - [**2131-4-10**] 04:00 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Heparin Sodium - [**2131-4-9**] 05:41 PM
   Haloperidol (Haldol) - [**2131-4-9**] 05:49 PM
   Morphine Sulfate - [**2131-4-9**] 08:32 PM
   Metoprolol - [**2131-4-10**] 12:07 AM
   Pantoprazole (Protonix) - [**2131-4-10**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-10**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 99 (78 - 100) bpm
   BP: 158/80(99) {133/57(73) - 177/104(108)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,623 mL
                                                                    693 mL
   PO:
                                                                  1,310 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    961 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                  1,100 mL
   Urine:
                                                                  1,660 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                     90 mL
   Drains:
   Balance:
                                                                  1,873 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%  Room Air
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, not agitated, chronically ill appearing, A+O
   x 3
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right foot swollen with known DVT, Left AKA
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   701 K/uL
   86 mg/dL
   1.0 mg/dL
   26 mEq/L
   5.3 mEq/L
   34 mg/dL
   108 mEq/L
   142 mEq/L
   25.4 %
   38.4 K/uL
        [image002.jpg]
                             [**2131-4-6**]  06:21 PM
                             [**2131-4-7**]  03:00 AM
                             [**2131-4-8**]  02:00 AM
                             [**2131-4-9**]  03:51 AM
                             [**2131-4-9**]  02:05 PM
                             [**2131-4-10**]  04:12 AM
   WBC
   3.8
   3.1
   4.1
   28.1
   38.4
   Hct
   27.7
   24.4
   24.6
   25.3
   25.4
   Plt
   232
   252
   407
   664
   701
   Cr
   0.7
   0.7
   0.8
   1.0
   1.1
   1.0
   Glucose
   86
   122
   108
   144
   139
   86
   Other labs: PT / PTT / INR:17.3/62.7/1.6, ALT / AST:17/22, Alk Phos / T
   Bili:106/0.2, Amylase / Lipase:21/9, Differential-Neuts:76.0 %,
   Band:2.0 %, Lymph:14.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:547 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   [**4-7**], 24 Blood neg
   Urine [**4-4**] and [**4-8**] enterococcus
   Assessment and Plan
   > VENOUS THROMBOEMBOLISM
   -large clot burden in LE, remote hx of stress gastritis-related bleed
   -on heparin gtt with no bolus and monitoring PTT serially; will need to
   consider long-term anticoag options carefully
   -if any bleeding and/or unable to anticoagulate, likely will require
   IVC filter give large LE clot burden
   FUO- possibly related to clot burden, but infectious sources include
   line infxn, pan CT scan w/ R > L effusions which seems to be freely
   layering and homogenous. All clx negative seems reasonable to stop Abx
   today as WBC is likely to be [**12-18**] GCSF (but will repeat Clx)
   -no longer neutropenic today, cont to monitor for fever and infxn
   - daptomycin, meropenem,  [**4-9**] stopped fluconazole and Flagyl today
   given no clear source
   - Stop the daptomycin and meropenem today
   - repeat C. diff clx.  And blod clx.
   -attempted to change central line to PICC yesterday but unable to place
   PICC due to inability to pass catheter.  Concern for clot burden above.
   Access adequate for now, eval for clot/placement via IR tomorrow
    PLEURAL EFFUSION- appears to be homogenous and freely layering. No
   underlying parenchymal disease. could be related to RA.
   - No underlying cardiac disease to implicate cardiogenic effusion.
   - would probably favor tapping at some point given fevers-- however
   given coagulopathy and mental status change would defer for now
   HYPERNATREMIA and Hyperkalemia
 adjust TPN to optimize
   NEUTROPENIA- resolved, was related to MTX most likely
   -leucovorin and G-CSF dc'd now with likely over exuberant response to
   G-CSF
   -parvovirus
   ALTERED MENTAL STATUS- increasingly alert and oriented (notably no
   fevers)
   - presumably related to some infxn or fevers
   -agitation controlled w/ prn Haldol
   COAGULOPATHY
   - INR was rising for unclear reasons prior to anticoag, LFTs appear nl
   and fibrinogen nl
   -considering malnutrition but will ask Hematology to assist
   RA- holding MTX, cont methylprednisolone
   Remainder of plan as per resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-4-9**] 05:38 PM 50 mL/hour
   Glycemic Control:  cont regular sliding scale
   Lines:
   Multi Lumen - [**2131-4-6**] 05:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes